US07202257B2
To a solution of 3-bromo-phenylamine (17 g, 0.1 mol) in concentrated HCl (200 mL) was added an aqueous solution (20 mL) of NaNO2 (7 g, 0.1 mol) at 0° C. and the resulting mixture was stirred for 1 h. A solution of SnCl2.2H2O (45 g, 0.2 mmol) in concentrated HCl (500 mL) was then added at 0° C. The reaction solution was stirred for an additional 2 h at RT. The precipitate was filtered and washed with ethanol and ether to give (3-bromo-phenyl)-hydrazine as a white solid, which was used for the next reaction without further purification.

reactant | 3-bromo-phenylamine | 0.1 mol, 17 g | BrC=1C=C(C=CC1)N | C6H6BrN
reactant | NaNO2 | 0.1 mol, 20 mL, 7 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 0.2 mmol, 45 g | O.O.Cl[Sn]Cl
solvent | HCl | 200 mL | Cl | ClH
solvent | HCl | 500 mL | Cl | ClH
product | (3-bromo-phenyl)-hydrazine | BrC=1C=C(C=CC1)NN | C6H7BrN2
